US04258187
A solution of 13.1 g (0.11 mole) of phenyl isocyanate and 23.17 g (0.1 mole) of 2-amino-5-chlorobenzophenone in 70 ml of methylene chloride was refluxed for 20 hr, and then evaporated to dryness under reduced pressure. The residue was recrystallized from ethanol to give 31.71 g (90%) of 1-(2-benzoyl-4-chlorophenyl)-3-phenylurea as colorless crystals: mp 145°-147°; 1H nmr (DMSO-d6) δ6.7-8.3 ppm (m, 13H), 9.43 ppm (d, J=7 Hz, 1H, exD2O) and 10.25 ppm (s, 1H, exD2O); 13C nmr (DMSO-d6) δ152.2 ppm (NHCO) and 195.5 ppm (C=O).

reactant | phenyl isocyanate | 0.11 mole, 13.1 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-amino-5-chlorobenzophenone | 0.1 mole, 23.17 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-benzoyl-4-chlorophenyl)-3-phenylurea | 31.71 g, 90% | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NC(=O)NC1=CC=CC=C1 | C20H15ClN2O2
